US04348534
A saturated aqueous solution of 0.01 part of bromine and one part of carbon tetrachloride is added to a mixture of 37.5 parts of methyl 2-(2',4'-dichlorophenoxy)-propionate, 26.7 parts of N-bromosuccinimide, 0.1 parts of azo-bis-isobutyronitrile and 300 parts of carbon tetrachloride. After 45 minutes of heating, 0.1 part of azo-bis-isobutyronitrile and 0.01 part of bromine in 1 part of carbon tetrachloride are added, at 70° C., and the batch is then stirred for 45 minutes at 77° C. It is then cooled to 40° C. and filtered, and the filtrate is concentrated under reduced pressure. 45 parts (91.5% of theory) of methyl 2-bromo-2-(2',4'-dichlorophenoxy)-propionate, of nD22 =1.5390, are obtained.

reactant | bromine | BrBr | Br2
reactant | methyl 2-(2',4'-dichlorophenoxy)-propionate | ClC1=C(OC(C(=O)OC)C)C=CC(=C1)Cl | C10H10Cl2O3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azo-bis-isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-bromo-2-(2',4'-dichlorophenoxy)-propionate | 91.5% | BrC(C(=O)OC)(C)OC1=C(C=C(C=C1)Cl)Cl | C10H9BrCl2O3
